US09260410B2
Intermediate B: N-(4-(2-(4-Aminonaphthalen-1-yloxy)ethyl)pyridin-2-yl)acetamide
A solution of N-(4-(2-(4-nitronaphthalen-1-yloxy)ethyl)pyridin-2-yl)acetamide (570 mg, 1.62 mmol) in a mixture of AcOH: MeOH (6:1 v/v, 54 mL) was subjected to hydrogenation by passage through a Thales H-cube (1 mLmin−1, 30 mm, 10% Pt/C Cat-Cart, full H2, 45° C.). The solvent was removed by evaporation in vacuo, and, the residue was subjected to SCX capture and release to furnish the title compound, Intermediate B, (550 mg, 100%): m/z 322 (M+H)+ (ES+).

reactant | N-(4-(2-(4-nitronaphthalen-1-yloxy)ethyl)pyridin-2-yl)acetamide | 1.62 mmol, 570 mg | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)OCCC1=CC(=NC=C1)NC(C)=O | C19H17N3O4
solvent | AcOH MeOH | 54 mL | CC(=O)O.CO
catalyst | Pt/C | [Pt] | Pt
product | N-(4-(2-(4-Aminonaphthalen-1-yloxy)ethyl)pyridin-2-yl)acetamide | NC1=CC=C(C2=CC=CC=C12)OCCC1=CC(=NC=C1)NC(C)=O | C19H19N3O2
